US05994312
(R)-N-(1,1-Dimethylethoxy)carbonyl-(S-methyl)cysteine
Di-tert-butyldicarbonate (8.88 g, 40.7 mmol) was added to a stirred solution of S-methyl-L-cysteine methyl-L-cysteine (5 g, 37 mmol) and sodium bicarbonate (7.8 g, 92.5 mmol) in a mixture if water (150 ml) and dioxane (100 ml) at 0° C. The mixture was allowed to warm to RT and stirred overnight, then diluted with water (100 ml), acidified to pH 3 using 1N hydrochloric acid then extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine, dried (MgSO4) and evaporated in vacuo to provide the title compound as a colourless oil (6.64 g, 76%)

reactant | Di-tert-butyldicarbonate | 40.7 mmol, 8.88 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | S-methyl-L-cysteine methyl-L-cysteine | 37 mmol, 5 g | CN[C@@H](CS)C(=O)O.CSC[C@H](N)C(=O)O | 2C4H9NO2S
reactant | sodium bicarbonate | 92.5 mmol, 7.8 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (R)-N-(1,1-Dimethylethoxy)carbonyl-(S-methyl)cysteine | 6.64 g, 76% | CC(C)(OC(=O)N[C@@H](CSC)C(=O)O)C | C9H17NO4S
